Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins / Shellfish Derived
 
Attending: ___.
 
Chief Complaint:
Esophageal cancer.

 
Major Surgical or Invasive Procedure:
___: Minimally-invasive esophagectomy surgery(thoracoscopic 
laparoscopic ___, laparoscopic jejunostomy tube, 
pericardial fat pad buttress (adjusted adjacent tissue 
transfer).

 
History of Present Illness:
The patient is a ___ gentleman who was found to have 
biopsy-proven intramucosal adenocarcinoma arising in high-grade 
dysplasia ___. He presents for resection.

 
Past Medical History:
GERD x ___ years  
___ esophagus with high-grade dysplasia.
Colon polyps ___ years ago.

 
Social History:
___
Family History:
His mother died at the age of ___ from breast cancer.  Father 
died
at age of ___ from coronary artery disease.  He has no brothers 
or
sisters.

 
Physical Exam:
Discharge VS: T 96.3, BP 112/66, HR 86, RR 20, O2 sats 97%RA
General: ___ year-old male in no apparent distress
HEENT: normocephalic, mucus membranes moist
Card: RRR normal ___ HSM murmer 
Resp: clear b/l
GI: soft, NT, NT  J-tube site clean , dry, intact. Incision 
C/D/I
Ext: warm no edema
Incisions: R chest incision site clean dry intact, margins well 
approximated
Neuro: AA&O x3, no focal deficits
 
Pertinent Results:
___ 06:40AM BLOOD WBC-15.6* RBC-4.56* Hgb-13.4* Hct-39.2* 
MCV-86 MCH-29.4 MCHC-34.2 RDW-14.2 Plt ___
___ 06:40AM BLOOD WBC-13.0* RBC-4.33* Hgb-13.0* Hct-37.1* 
MCV-86 MCH-30.0 MCHC-35.1* RDW-13.7 Plt ___
___ 06:50AM BLOOD WBC-13.0* RBC-4.22* Hgb-12.8* Hct-36.2* 
MCV-86 MCH-30.3 MCHC-35.3* RDW-13.7 Plt ___
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:40AM BLOOD Glucose-128* UreaN-18 Creat-0.8 Na-138 
K-4.3 Cl-105 HCO3-23 AnGap-14
___ 06:40AM BLOOD Glucose-80 UreaN-22* Creat-0.7 Na-136 
K-3.6 Cl-103 HCO3-23 AnGap-14
___ 06:50AM BLOOD Glucose-78 UreaN-20 Creat-0.7 Na-141 
K-4.2 Cl-106 HCO3-26 AnGap-13
___ 06:40AM BLOOD Mg-1.9
___ 06:40AM BLOOD Calcium-8.0* Phos-3.3 Mg-2.0
___ 06:50AM BLOOD Calcium-7.7* Phos-2.7 Mg-1.8

___ PA and Lat CXR:
IMPRESSION: PA and lateral chest compared to ___: 
  
There is no pneumothorax, appreciable pleural effusion, or 
mediastinal 
widening relative to ___ following removal of midline and 
pleural drains. Large cardiomediastinal silhouette and right 
basal atelectasis are stable as is the caliber of the distended 
neoesophagus, with small flecks of residual contrast agent from 
the swallow performed earlier today and reported separately. 

___ Barium swallow:
FINDINGS: Contrast passes freely through the neoesophagus into 
the remainder of the stomach and small bowel. There is slight 
holdup within the stomach, which may be postoperative. There is 
no evidence for leak or stricture. 
  
IMPRESSION: No evidence for leak or stricture.  

  

 
Brief Hospital Course:
Mr. ___ was admitted ___ following minimally-invasive 
esophagectomy surgery
(thoracoscopic laparoscopic ___, laparoscopic 
jejunostomy tube, pericardial fat pad buttress (adjusted 
adjacent tissue transfer) by Dr. ___.  He was extubated 
in the operating room, and transferred to the ICU with right 
chest tube, JP, NGT, Foley and Epidural for pain. He transfered 
to the floor POD 2. Below is a systems review of Mr. ___ 
hospital course:  

Respiratory: Postoperative day 1 he had respiratory acidosis 
secondary to hypoventilation.  With aggressive pulmonary toilet, 
incentive spirometer and good pain control he titrated off 
oxygen with saturations of 97% on RA.

Chest-tube: right with minimal drainage was removed ___ 
without PTX on postpull films.

Card: Sinus tachycardia 110's- IV Lopressor titrated to HR < 90 
converted to ___ once diet initiated.  BP stable 110-130's.  On 
discharge his heart rate was sinus rhythm 70's and his lopressor 
was discontinued.

GI: PPI, bowel regime continued. Pt had bowel movements 
following surgery.

Nutrition: Jevity was started POD 1 titrated to Goal 105 ml x 18 
hours as recommended by the dietician. On ___ he was 
started on a full liquid following a negative barium swallow 
which he tolerated. NGT was dc'd on POD 4 Chest tube and JP were 
removed following barium swallow that showed no leak, POD 6.

Renal: He had normal renal function. Electrolytes were replete 
as needed.  Daily weights were stable. The Foley was removed 
___ with good urine output thereafter

Pain: Epidural was split on POD2 with PCA dilaudid and removed 
___. He transitioned to ___ roxicet via J-tube with good 
control.

Disposition: He was seen by physical therapy and deemed safe for 
home.  He was discharged on ___ with his family and ___ 
___.  He will follow-up with Dr. ___ as an outpatient.

 
Medications on Admission:
Protonix 40 mg bid
 
Discharge Medications:
1. Jevity Full Strength
Goal 105 mL x 18 hrs

Flush J-tube with 50 mL of water before, after starting tube 
feeds and at NOON

Refills: 11

Feeding pump and supplies
2. Prevacid SoluTab 30 mg Tablet,Rapid Dissolve, ___ Sig: One (1) 
Tablet,Rapid Dissolve, ___ ___ a day.
Disp:*60 Tablet,Rapid Dissolve, ___ Refills:*6*
3. Roxicet ___ mg/5 mL Solution Sig: ___ ml ___ every ___ 
hours as needed for pain.
Disp:*500 ml* Refills:*0*
4. docusate sodium 50 mg/5 mL Liquid Sig: Ten (10) ml ___ twice a 
day: take while on narcotics for pain, hold for loose stool.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
GERD 
___ esophagus w high-grade dysplasia  
Colon polyps  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call Dr. ___ ___ if you experience:
-Fevers greater than 101 or chills
-Increased shortness of breath, cough or chest pain
-Nausea, vomiting (take anti-nausea medication) 
-Increased abdominal pain
-Incision develops drainage
-Chest tube site remove dressing and cover site with a bandaid

Pain
-Roxicet via J-tube as needed for pain
-Take stool softners with narcotics

Activity
-Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
-No tub bathing, swimming or hot tub until incision healed
-No driving while taking narcotics
-No lifting greater than 10 pounds until seen
-Walk ___ times a day for ___ minutes increase to a Goal of 30 
minutes daily
-Remove chest tube and j-tube site bandages ___ and replace 
with a bandaid, changing daily until healed.

J-tube site: If your j-tube falls out call Dr. ___ 
___ immediately. You may keep this covered changing dressing 
daily to protect site while wearing pants. If not drainage 
around j-tube you may keep site open to air.
 
Followup Instructions:
___